US07402595B2
3-acetyl-2-benzyl-6-bromo-4-phenyl-2H-isoquinolin-1-one
To a solution of 2-benzyl-6-bromo-3-(1-hydroxyethyl)-4-phenyl-2H-isoquinolin-1-one (250 mg) in THF (5 ml) was added manganese(IV) oxide (500 mg), and the mixture was heated under reflux for 1 hr. To the reaction mixture was add manganese(IV) oxide (500 mg) and the mixture was heated under reflux for 1 hr, manganese(IV) oxide (500 mg) was added and the mixture was heated under reflux for 1 hr, and manganese(IV) oxide (500 mg) was added and the mixture was heated under reflux for 12 hrs. The reaction mixture was filtered and the filtrate was concentrated. The obtained residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=8:1) and recrystallized (ethyl acetate-hexane) to give the title compound (150 mg).

reactant | 2-benzyl-6-bromo-3-(1-hydroxyethyl)-4-phenyl-2H-isoquinolin-1-one | 250 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(C)O)C1=CC=CC=C1)Br)=O | C24H20BrNO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | manganese(IV) oxide | 500 mg | [O-2].[Mn+4].[O-2]
catalyst | manganese(IV) oxide | 500 mg | [O-2].[Mn+4].[O-2]
catalyst | manganese(IV) oxide | 500 mg | [O-2].[Mn+4].[O-2]
catalyst | manganese(IV) oxide | 500 mg | [O-2].[Mn+4].[O-2]
product | 3-acetyl-2-benzyl-6-bromo-4-phenyl-2H-isoquinolin-1-one | 150 mg | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=CC=C1 | C24H18BrNO2
